US08058299B2
To a solution of rac-trans-cyclopentane-1,2-dicarboxylic acid diethyl ester (393 mg, 1.84 mmol) was added a solution of lithium hydroxide (75.5 mg, 1.8 mmol) in water (7 mL). The reaction mixture was stirred at room temperature for 30 minutes and then heated to 55° C. for 1 hr. The reaction mixture was cooled and evaporated under reduced pressure. The residue was dissolved in 25 mL water and washed with diethyl ether (2×5 mL). The pH of the aqueous layer was adjusted to pH 5 with 1N hydrochloric acid and extracted with methylene chloride (2×5 mL) and ethyl acetate (5 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated to dryness under vacuum to give rac-trans-cyclopentane-1,2-dicarboxylic acid monoethyl ester (95 mg) that was used without further purification.

reactant | rac-trans-cyclopentane-1,2-dicarboxylic acid diethyl ester | 1.84 mmol, 393 mg | C(C)OC(=O)[C@H]1[C@@H](CCC1)C(=O)OCC | C11H18O4
reactant | lithium hydroxide | 1.8 mmol, 75.5 mg | [OH-].[Li+]
solvent | water | 7 mL | O | H2O
product | rac-trans-cyclopentane-1,2-dicarboxylic acid monoethyl ester | 95 mg | C(C)OC(=O)[C@H]1[C@@H](CCC1)C(=O)O | C9H14O4
